US08258130B2
A solution of 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-formyl-indol-1-yl)-amide (230 mg, 0.614 mmol) in MeOH (10 mL) is treated with NaBH4 (233 mg, 6.14 mmol) and stirred at rt for 1 h. The mixture is diluted with EtOAc (50 mL) and H2O, neutralized with HCl (conc.), and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by preparative reverse-phase HPLC eluting with 20%-100% MeCN in H2O to afford 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-hydroxymethyl-indol-1-yl)-amide (90 mg, 8%). MS: 378 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 11.92 (s, NH, 1H), 9.27 (s, 1H), 8.81 (d, 1H), 8.47 (d, 1H), 8.05 (m, 1H), 7.61 (m, 1H), 7.44 (m, 3H), 7.10 (m, 1H), 5.00 (t, OH, 1H), 4.66 (d, 2H), 2.78 (s, 3H).

reactant | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-formyl-indol-1-yl)-amide | 0.614 mmol, 230 mg | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C)C=O | C20H14FN5O2
reactant | NaBH4 | 6.14 mmol, 233 mg | [BH4-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 10 mL | CO | CH4O
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
product | 4-methyl-2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-hydroxymethyl-indol-1-yl)-amide | 90 mg, 8% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C(=NC(=NC1)C1=NC=CC=C1)C)CO | C20H16FN5O2
